US07807708B2
In a manner similar to that of Example 3, by reacting 100 mg of ethyl 3″-tert-butyl-4′-(4-hydroxybutoxy)-4″-pyrrolidin-1-yl[1,1′;3′,1″]terphenyl-4-carboxylate (0.18 mmol) with 0.3 mL of 1N sodium hydroxide solution. 50 mg of 3″-tert-butyl-4′-(4-hydroxybutoxy)-4″-pyrrolidin-1-yl[1,1′;3′,1″]terphenyl-4-carboxylic acid are obtained (yield=56%) in the form of a white solid (m.p.=206° C.).

reactant | ethyl 3″-tert-butyl-4′-(4-hydroxybutoxy)-4″-pyrrolidin-1-yl[1,1′;3′,1″]terphenyl-4-carboxylate | 0.18 mmol, 100 mg | C(C)(C)(C)C=1C=C(C=CC1N1CCCC1)C=1C=C(C=CC1OCCCCO)C1=CC=C(C=C1)C(=O)OCC | C33H41NO4
reactant | sodium hydroxide | 1N, 0.3 mL | [OH-].[Na+]
product | 3″-tert-butyl-4′-(4-hydroxybutoxy)-4″-pyrrolidin-1-yl[1,1′;3′,1″]terphenyl-4-carboxylic acid | 50 mg, yield=56% | C(C)(C)(C)C=1C=C(C=CC1N1CCCC1)C=1C=C(C=CC1OCCCCO)C1=CC=C(C=C1)C(=O)O | C31H37NO4
